US06534522B2
a) 4-(1-Adamantylmethyl)piperidine hydrochloride
A mixture of 4-(1-adamantylmethyl)pyridine (500 mg, 2.20 mmol) and PtO2 (15 mg) in MeOH (20 mL) containing concd HCl (1 mL) was allowed to shake under H2 (25-30 psi) for 24 h. NMR analysis showed only about 45% reaction. An additional portion of catalyst was added and the reaction was allowed to proceed as above for an additional 24 h. The analysis now showed about 70% reaction. The reaction was allowed to proceed at 50 psi for a final 24 h (72 h total). A crystalline solid was observed in the reaction mixture. The addition of CH2Cl2 and warming dissolved this material. The analysis now showed ˜95% reaction. The catalyst was removed by filtration (Celite) and the solvent was removed to give a yellow solid. The solid was dissolved in boiling MeOH (12 mL) and the solution was hot filtered. The filtrate was concd to 8 mL and was cooled in an ice bath to give a suspension. The solid was collected, was washed with ice cold MeOH (3×1 mL) and was dried in vacuo (100° C., 0.005 Torr) to give the title compound as a pale yellow crystalline solid (365 mg, 62%): mp >300° C.; 1H NMR (DMSO-d6) 0.95 (d, J =4.5, 2H), 1.22-1.78 (m, 17H), 1.90 (s, 3H), 2.81 (dd, J=22 and 11, 2H), 3.13 (d, J=12, 2H), 8.68 (bs, 1H), 8.89 (bs, 1H).

reactant | 4-(1-adamantylmethyl)pyridine | 2.20 mmol, 500 mg | C12(CC3CC(CC(C1)C3)C2)CC2=CC=NC=C2 | C16H21N
reactant | HCl | 1 mL | Cl | ClH
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | PtO2 | 15 mg | O=[Pt]=O
solvent | MeOH | 12 mL | CO | CH4O
product | 4-(1-Adamantylmethyl)piperidine hydrochloride | 365 mg, 62% | Cl.C12(CC3CC(CC(C1)C3)C2)CC2CCNCC2 | InChI=1S/C16H27N.ClH/c1-3-17-4-2-12(1)8-16-9-13-5-14(10-16)7-15(6-13)11-16;/h12-15,17H,1-11H2;1H
